US08258130B2
A solution of 5-methoxy-3-methyl-1H-pyrrolo[3,2-b]pyridine (17.3 mmol) in anhydrous DMF (20 mL) is added drop-wise to a stirred solution of NaH (60%, 260 mmol) in anhydrous DMF (35 mL) under N2 at 0° C. for 40 min and then stirred at 0° C. under nitrogen for 30 minutes. HOSA is added portion-wise for 45 minutes at 0° C. and then stirred at 0° C. for 2 hours. After quenching with ice-water (500 mL), the reaction mixture is extracted with ether (3×40 mL). The combined organic layer is washed with water (20 mL) and brine (20 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The residue is purified by silica gel column chromatography eluting with 5-60% EtOAc in heptane to afford 5-methoxy-3-methyl-pyrrolo[3,2-b]pyridin-1-ylamine (1.73 g) as a solid. MS: 178 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.34 (s, 3H), 4.04(s, 3H), 4.75(br, 2N—H), 6.63(d, H), 7.04(s, H), 7.60(d, H).

reactant | 5-methoxy-3-methyl-1H-pyrrolo[3,2-b]pyridine | 17.3 mmol | COC1=CC=C2C(=N1)C(=CN2)C | C9H10N2O
reactant | NaH | 260 mmol | [H-].[Na+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 5-methoxy-3-methyl-pyrrolo[3,2-b]pyridin-1-ylamine | 1.73 g | COC1=CC=C2C(=N1)C(=CN2N)C | C9H11N3O
